US06969710B2
N-[5-(1,4-diazepan-1-yl)-2-({[(E)-2-phenylethenyl]sulfonyl}amino)phenyl]benzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and beta-styrenesulfonylchloride (55 mg, 0.27 mmol) to give before Boc-deprotection 12 mg as purple solid. M+1 513.6 Calcd 512.15. 1HNMR δ 7.78-7.38 (m, 10H), 7.20 (d, 1H), J=15.4 Hz), 7.10 (d, 1H), 6.98 (d, 1H), J=15.4 Hz), 6.56 (dd, 1H), 6.44 (d, 1H), 3.62 (app t, 2H), 3.41 (app t, 2H), 3.23 (app t, 2H), 3.15 (app t, 2H), 2.09-2.01 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | beta-styrenesulfonylchloride | 0.27 mmol, 55 mg | C(=CC1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO2S
product | N-[5-(1,4-diazepan-1-yl)-2-({[(E)-2-phenylethenyl]sulfonyl}amino)phenyl]benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)\C=C\C1=CC=CC=C1 | InChI=1S/C25H28N4O4S2.ClH/c30-34(31,19-14-21-8-3-1-4-9-21)27-24-13-12-22(29-17-7-15-26-16-18-29)20-25(24)28-35(32,33)23-10-5-2-6-11-23;/h1-6,8-14,19-20,26-28H,7,15-18H2;1H/b19-14+;
